US05216003
Step 4: Synthesis of 2-Nitro-3-(diethylphosphonomethyl)benzoic acid:
Methyl 2-nitro-3-(diethylphosphonomethyl)benzoate (7.3 gm) was dissolved in absolute ethanol (44 mL) containing sodium hydroxide (0.89 gm) and allowed to stir at room temperature for 48 hours. The solvent was removed on a rotory evaporator and the residue dissolved in water (150 mL) and extracted with ethyl acetate (100 mL). The aqueous layer was acidified with 1N HCl and the turbid solution extracted with 3×chloroform (75 mL). The chloroform layers were combined, dried (MgSO4) and concentrated to a yellow solid. 1H NMR data CDCl3, TMS 1.28 (t, 6H), 3.27 (d, 2H), 4.09 (p, 4H), 7.57 (t, 1H), 7.83 (d, 1H), 7.98 (d, 1H).

reactant | Methyl 2-nitro-3-(diethylphosphonomethyl)benzoate | 7.3 gm | [N+](=O)([O-])C1=C(C(=O)OC)C=CC=C1CP(=O)(OCC)OCC | C13H18NO7P
reactant | sodium hydroxide | 0.89 gm | [OH-].[Na+]
solvent | ethanol | 44 mL | C(C)O | C2H6O
product | 2-Nitro-3-(diethylphosphonomethyl)benzoic acid | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1CP(=O)(OCC)OCC | C12H16NO7P
